US04426524
A stirred solution of 36.3 g (0.223 mol) of 3-bromothiophene in 50 mL of dry tetrahydrofuran was cooled to -78° C. in a dry ice-acetone bath. To this solution was added dropwise 139.4 mL (14.3 g, 0.223 mol, 1.6 M in hexane) of n-butyllithium in hexane over 30 minutes. Upon complete addition, the reaction mixture was stirred at -78° C. for 1.5 hours, then 25.0 g 0.223 mol, of 3-methylcyclohexanone was added dropwise during 20 minutes. Upon complete addition, the reaction mixture was stirred at -78° C. for two hours. The cooling bath was removed, and the reaction mixture was allowed to warm to ambient temperature during 1.5 hours, then was stirred for an additional one hour. Diethyl ether saturated with water (50 mL) was added with stirring, and the mixture was poured into a mixture of 50 g of ice and 20 mL of concentrated hydrochloric acid. The layers were separated, and the aqueous layer was washed with two portions of 200 mL each of diethyl ether. The washings were combined with the organic layer, and the whole was washed with 300 mL of a saturated aqueous solution of sodium chloride. The organic layer was dried with magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to give 44.0 g of 1-(3-thienyl)-3-methylcyclohexanol. Volatile components were removed from the product by distillation at 50° C./0.25 mm using a Kugelrohr distilling system.

reactant | 3-bromothiophene | 0.223 mol, 36.3 g | BrC1=CSC=C1 | C4H3BrS
reactant | n-butyllithium | 0.223 mol, 1.6 M, 139.4 mL, 14.3 g | C(CCC)[Li]
reactant | 3-methylcyclohexanone | CC1CC(CCC1)=O | C7H12O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-(3-thienyl)-3-methylcyclohexanol | 44.0 g | S1C=C(C=C1)C1(CC(CCC1)C)O | C11H16OS
